US08623898B2
N-(Tetrahydro-2H-pyran-4-yl)-N-[3-(trifluoromethoxy)benzyl]-5,6,7,8-tetrahydroimidazo[1,2-a]pyridine-2-carboxamide
A mixture of N-(tetrahydro-2H-pyran-4-yl)-N-[3-(trifluoromethoxy)benzyl]imidazo[1,2-a]pyridine-2-carboxamide (50 mg), 10% palladium-carbon (50 mg) and methanol (15 mL) was stirred in a nitrogen atmosphere for 2 hours at room temperature. The insoluble matter was filtered off and methanol was distilled off under reduced pressure to give the titled compound (48 mg).

reactant | N-(tetrahydro-2H-pyran-4-yl)-N-[3-(trifluoromethoxy)benzyl]imidazo[1,2-a]pyridine-2-carboxamide | 50 mg | O1CCC(CC1)N(C(=O)C=1N=C2N(C=CC=C2)C1)CC1=CC(=CC=C1)OC(F)(F)F | C21H20F3N3O3
catalyst | palladium-carbon | 50 mg | [C].[Pd]
solvent | methanol | 15 mL | CO | CH4O
product | N-(Tetrahydro-2H-pyran-4-yl)-N-[3-(trifluoromethoxy)benzyl]-5,6,7,8-tetrahydroimidazo[1,2-a]pyridine-2-carboxamide | 48 mg | O1CCC(CC1)N(C(=O)C=1N=C2N(CCCC2)C1)CC1=CC(=CC=C1)OC(F)(F)F | C21H24F3N3O3
